US04526608
A mixture of 4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-1,2-dinitrobenzene (2.50 g, 6.88 mmol), N-methylhydroxyamine (1.15 g), K2CO3 (1.14 g, 8.26 mmol) and THF (20 ml) is stirred at RT for 48 hours. The reaction mixture is filtered and the filtrate is concentrated. The resulting residue is taken up in CH2Cl2, washed, dried and evaporated to give N-methyl-N-[2-nitro-5-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenyl]-hydroxyamine (IXB; R is H).

reactant | 4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-1,2-dinitrobenzene | 6.88 mmol, 2.50 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C12H5ClF3N3O5
reactant | N-methylhydroxyamine | 1.15 g | CNO | CH5NO
reactant | K2CO3 | 8.26 mmol, 1.14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-methyl-N-[2-nitro-5-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenyl]-hydroxyamine | CN(C1=C(C=CC(=C1)OC1=NC=C(C=C1Cl)C(F)(F)F)[N+](=O)[O-])O | C13H9ClF3N3O4
